US07378448B2
Combine di-tert-butyl dicarbonate (3.1 g, 14.0 mmol), 4-(2-benzylamino-ethyl)-phenol (2.6 g, 11.5 mmol), and tetrahydrofuran (75 mL) and stir at room temperature for 18 hours. Concentrate on a rotary evaporator to yield the crude product. The crude product is purified by flash column chromatography on silica gel eluting with 20% ethyl acetate in hexanes to yield benzyl-[2-(4-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester (2.7 g): 1H NMR (CDCl3, 300.00 MHz): 7.01-6.16 (m, 9H), 5.44 (s, 1H), 3.95 (s, 2H), 2.89 (m, 2H), 2.26 (m, 2H), 1.06 (s, 9H). Step 3 Benzyl-{2-[4-(4-nitro-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester

reactant | di-tert-butyl dicarbonate | 14.0 mmol, 3.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-(2-benzylamino-ethyl)-phenol | 11.5 mmol, 2.6 g | C(C1=CC=CC=C1)NCCC1=CC=C(C=C1)O | C15H17NO
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | benzyl-[2-(4-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 2.7 g | C(C)(C)(C)OC(N(CCC1=CC=C(C=C1)O)CC1=CC=CC=C1)=O | C20H25NO3
